US07888364B2
250 mg of 5-(methoxycarbonyl)picolinic acid was coupled to pyridin-2-ylmethanamine via Procedure G. Crude methyl 6-(pyridin-2-ylmethylcarbamoyl)nicotinate was hydrolyzed via Procedure M to yield 250 mg of 6-(pyridin-2-ylmethylcarbamoyl)nicotinic acid. 60 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 6-(pyridin-2-ylmethylcarbamoyl)nicotinic acid via Procedure G. The crude product was purified by reverse phase HPLC to yield N5-(4-chloro-3-(pyridin-2-yl)phenyl)-N2-(pyridin-2-ylmethyl)pyridine-2,5-dicarboxamide. MS (Q1) 444.1 (M)+.

reactant | 5-(methoxycarbonyl)picolinic acid | 250 mg | COC(=O)C=1C=CC(=NC1)C(=O)O | C8H7NO4
reactant | pyridin-2-ylmethanamine | N1=C(C=CC=C1)CN | C6H8N2
reactant | methyl 6-(pyridin-2-ylmethylcarbamoyl)nicotinate | N1=C(C=CC=C1)CNC(=O)C1=NC=C(C(=O)OC)C=C1 | C14H13N3O3
product | 6-(pyridin-2-ylmethylcarbamoyl)nicotinic acid | 250 mg | N1=C(C=CC=C1)CNC(=O)C1=NC=C(C(=O)O)C=C1 | C13H11N3O3
